US05274003
Preparation of 1,2,3,4-tetrahydro-5-methoxy-N-[2-(2-naphthalenyloxy)ethyl]-N-propyl-2naphthalenamine
In Example 29, phenoxyacetic acid was replaced with (2-naphthoxy)acetic acid and (-)-2-(N-n-propylamino)-5-methoxytetralin was replaced with (±)-2-(N-n-propylamino)-5-methoxytetralin. The resulting oil was subjected to flash chromatography (Silica: 8:2 pet ether/EtOAc) and the product showed characteristic peaks at: NMR (300 MHz, CDCl3) δ 7.8-6.6(m, 10H), 4.15(t, 2H), 3.8(S, 3H), 0.9(t, 3H).

reactant | phenoxyacetic acid | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | (2-naphthoxy)acetic acid | C1=C(C=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | (-)-2-(N-n-propylamino)-5-methoxytetralin | C(CC)NC1CC2=CC=CC(=C2CC1)OC | C14H21NO
product | 1,2,3,4-tetrahydro-5-methoxy-N-[2-(2-naphthalenyloxy)ethyl]-N-propyl-2naphthalenamine | COC1=C2CCC(CC2=CC=C1)N(CCC)CCOC1=CC2=CC=CC=C2C=C1 | C26H31NO2
